US06586447B1
13B. 4-[7-Methyl-1-naphthalen-1-ylmethyl-2-oxo-3-(1-trityl-1H-pyrazol-4-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-benzonitrile
To a suspension of 4-(7-methyl-1-naphthalen-1-ylmethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-benzonitrile (300 mg, 0.773 mmol) and 1-trityl-1H-pyrazole-4-carbaldehyde (303 mg, 0.928 mmol) in methanol (5 ml) was added pyrrolidine (0.323 ml, 3.87 mmol). The reaction mixture was heated at 70° C. overnight. After cooled to room temperature, the reaction mixture formed a precipitate. The solid was collected and washed with cold methanol to give the title compound of 13B as a bright yellow solid (340 mg, 63.2% yield).

reactant | 4-(7-methyl-1-naphthalen-1-ylmethyl-2-oxo-2,3-dihydro-1H-indol-6-yl)-benzonitrile | 0.773 mmol, 300 mg | CC=1C(=CC=C2CC(N(C12)CC1=CC=CC2=CC=CC=C12)=O)C1=CC=C(C#N)C=C1 | C27H20N2O
reactant | 1-trityl-1H-pyrazole-4-carbaldehyde | 0.928 mmol, 303 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)C=O | C23H18N2O
reactant | pyrrolidine | 3.87 mmol, 0.323 ml | N1CCCC1 | C4H9N
solvent | methanol | 5 ml | CO | CH4O
product | 4-[7-Methyl-1-naphthalen-1-ylmethyl-2-oxo-3-(1-trityl-1H-pyrazol-4-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-benzonitrile | 340 mg, 63.2% yield | CC=1C(=CC=C2C(C(N(C12)CC1=CC=CC2=CC=CC=C12)=O)=CC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C50H36N4O
